US05364871
Benzoyl chloride (15.7 ml) was dropped to a refluxing solution of ammonium thiocyanate (11.3 g) in acetone (640 ml) and the mixture was refluxed for 20 minutes. 4-(6-Acetylaminomethylpyridin-2-yl)-2-aminothiazole (32.0 g) was added portionwise to the refluxing mixture. After the mixture was refluxed for 3 hours, the solvent was evaporated in vacuo and the residue was mixed with ethyl acetate, tetrahydrofuran and water. The mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate and resulting precipitate was collected by filtration to give 4-(6-acetylaminomethylpyridin-2-yl)-2-(3-benzoylthioureido)thiazole (15.11 g).

reactant | Benzoyl chloride | 15.7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium thiocyanate | 11.3 g | [S-]C#N.[NH4+]
reactant | 4-(6-Acetylaminomethylpyridin-2-yl)-2-aminothiazole | 32.0 g | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N | C11H12N4OS
solvent | acetone | 640 ml | CC(=O)C | C3H6O
product | 4-(6-acetylaminomethylpyridin-2-yl)-2-(3-benzoylthioureido)thiazole | 15.11 g | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)NC(=S)NC(C1=CC=CC=C1)=O | C19H17N5O2S2
